US07935815B2
Synthesis of tert-butyl (2-oxopiperidin-1-yl)carbamate
Potassium tert-butoxide (850 mg) was added to a solution of the carbazide compound (2.03 g) in THF (30 ml) under ice-cooling. The reaction solution was stirred at the same temperature for 30 minutes and at room temperature for further 1.5 hours. Ethyl acetate and water were added to the reaction solution, and the organic layer was separated. The organic layer was sequentially washed with water and brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 907 mg of the title compound. The property values of the compound are as follows.

reactant | Potassium tert-butoxide | 850 mg | CC(C)([O-])C.[K+]
reactant | carbazide | 2.03 g | NNC(=O)NN | CH6N4O
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
reactant | THF | 30 ml | C1CCOC1 | C4H8O
product | tert-butyl (2-oxopiperidin-1-yl)carbamate | 907 mg | O=C1N(CCCC1)NC(OC(C)(C)C)=O | C10H18N2O3
